Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
tachycardia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o man with a history of atrial fibrillation complicated by 
recent embolic stroke and rapid ventricular response, 
hypertesnion, community acquired pneumomnia complicated by 
diffuse alveolar hemorrhage ___, who is admitted to the ___ 
___ service from his extended care facility with 
hypertension and tachycardia. 

The patient was just recently discharged from ___ ___ to 
the ___ acute rehab. He had an episode of hypertension 
and tachycardia @ 1am and received IV metooprolol wtih good 
effect. However, he another episode at 7am and pulled out his IV 
and refused oral medications. He was transported back to the ED. 


In the ED he was stable. He was given cefepime and flagyl (he 
has several more days of this to complete course of aspiration 
pneumonia). He got aspirin and lovenox. He received 2L of IV 
fluids and a chest x-ray demonstrated pulmonary edema. He was 
not hypoxix. He also got 5mg ___ atenolol and 10mg IV lasix. He 
was transported to the floor.

further review of systems was unable to be obtained. 
 
Past Medical History:
-HTN; 
-CHD; 
-PAF s/p warfarin anticoagulation (discontinued ___
-CAP/diffuse alveolar hemorrhage ___ (requiring MICU/ventilator
support);
-BPH, s/p TURP ___
-amiodarone-induced corneal deposits ___ 
-BLE varicosities/venous stasis;
-osteopenia with multiple spinal compression Fx;
-infrequent exertional angina - uses NTG rarely for CP;
- GERD on pantoprazole - ___ EGD showed macroscopic changes c/w
___, NOT confirmed by Bx
- s/p ___ radiofrequency ablation greater saphenous vein RLE by
Dr. ___ in DVT; pt. took Lovenox 
injections
for 2 weeks total, discontinued by Vascular Surgery when "repeat
duplex [showed] resolution of this thrombus back to within the
normal position in the greater saphenous vein"
- gradual reduction of exercise capacity, with pt. firmly
dependent on cane during ambulation; pt. must "rest frequently"
when he ambulates for exercise with spouse

 
Social History:
___
Family History:
No migraines, stroke, CAD.  Mom with HTN. Father’s history not 
well known.
 
Physical Exam:
97.6  181/98  64  20  100%RA
GEN: chronically ill appearing, but not in distress
HEENT: no JVP
CV: irregular
RESP: right sided crackles clear with coughing and deep 
inspiration. Otherwise clear
ABD: soft, NT/ND, no masses
EXT: no edema
NEURO: Weakness on left side LLE>LUE, but able to move both 
extremities; no cranial nerve deficits; able to understand and 
respond appropriately (in ___

 
Pertinent Results:
LABS ON ADMMISSION:

___ 09:00AM   WBC-6.3 RBC-4.26* HGB-12.1* HCT-36.7* MCV-86 
MCH-28.5 MCHC-33.1 RDW-13.4
___ 09:00AM   GLUCOSE-99 UREA N-23* CREAT-0.8 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-___. Expected evolutional changes of known right internal capsule, 
thalamic and right occipital lobe infarction. Chronic small 
vessel ischemic changes. No evidence of hemorrhage.  2. Area of 
mucus retention within the right maxillary sinus with high 
attenuation compatible with either intussicipated secretions or 
fungal colonization.  NOTE ADDED AT ATTENDING REVIEW: The 
combination of sinus wall sclerosis, hyperdense, partially 
calcified material, and stability since earlier in ___ imply 
that this is chronic sinus inflammation. It is not necessary to 
invoke fungal infection to explain these findings. 

CXR: interval development of fluid congestion on film from 
AM->pm ___. cardiomegally
 
Brief Hospital Course:
___ year old man with a history of atrial fibrillation, recent 
multiple embolic stroke, and history of alveolar hemorrhage who 
was re-admitted to the hospitalist service because of 
hypertension and tachycardia. He had evidence of uncontrolled 
atrial fibrillation with RVR, volume overload from fluid 
administration, and acute diastolic heart failure. He received 
some IV metoprolol with good response, and his heart rate 
responded to an increase in his atenolol to BID. He also 
received Lasix and he became no longer hypoxic.  His lung exam 
was clear after one injection of Lasix, and he did not receive 
further diuresis. He was seen by neurology who recommended 
anticoagulation with warfarin. The treatment was complicated by 
a history of diffuse alveolar hemorrhage in the context of 
community acquired pneumonia, the details of which were unclear. 
However, after talking to the primary care physician and family, 
the risks of anticoagulation were weighed against the risk of 
further embolic stroke, and the decision to anticoagulate was 
made. A heparin drip was initiated and then was started on 
warfarin. During the last admission, he had decreased level of 
consciousness. He had a LP which was negative. This was believed 
to be multifactorial: sedating medications (trazodone/zolpidem 
at rehab), infection (aspiration pneumonia), and thalamic 
stroke. This resolved over the course of the last hospital stay, 
and upon discharge he was interactive and responsive, moving all 
extremities, and participatory in rehab. During this hospital 
stay, he became more lethargic and lost his consciousness. His 
eye became closed, with spasticity of the upper extremities. He 
had no verbal communication, was not eating, and did not move 
his extremities. He had CT of head, MRI, and EEG. These tests 
did not show bleed, new stroke, or clear evidence of seizure. 
He, however, was treated with Keppra IV because of high risk of 
seizures and arm spasticity. Despite Keppra and several doses of 
Ativan, he did not improve. We had several family meetings. The 
code status and goals of care reviewed with patient's son and 
wife during the previous hospitalization and this 
hospitalization; he became DNR/DNI. The wife stated that patient 
had expressed wishes not to have any life prolonging therapies, 
but she is stating that she wishes that he be treated for this 
acute illness. However, after he became unconscious for several 
days, she decided on comfort measures. The son agreed with the 
plan and they decided against artifical feeding. During his 
hospitalization, he was treated for aspiration pneumonia and 
with Cefepime and metronidazole and completed a total ___ll CSF, urine and blood cultures remained negative 
throughout admission except one urine culture that showed 
enterococcus ( VRE) in small amounts. Subsequent urine culture 
was negative. The patient was transferred to hospice. 

 
Medications on Admission:
1. Warfarin 5 mg Tablet Sig: One (1) Tablet ___ Once ___ at 4 
___: Please titrate to goal INR ___.  
2. Metronidazole in NaCl (Iso-os) 500 mg/100 mL Piggyback Sig: 
Five Hundred (500) mg Intravenous Q8H (every 8 hours) for 5 
days.  
3. Cefepime 2 gram Recon Soln Sig: One (1) Recon Soln Injection 
Q24H (every 24 hours) for 5 days.  
4. Heparin (Porcine) in NS (PF) 2,000 unit/1,000 mL Parenteral 
Solution Sig: Eight Hundred (800) units Intravenous per hour: 
Titrate to PTT 50-70, overlap with therapeutic INR x 24 hours.  
5. PICC Care
PICC care per protocol
6. Heparin Flush 10 unit/mL Kit Sig: One (1) flush Intravenous 
every eight (8) hours.  
7. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
8. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr ___.  
9. Atenolol 50 mg Tablet Sig: One (1) Tablet ___.  
10. Amlodipine 5 mg Tablet Sig: One (1) Tablet ___. 

 
11. Lisinopril 20 mg Tablet Sig: One (1) Tablet ___ 
(___).  
12. Digoxin 125 mcg Tablet Sig: One (1) Tablet ___. 

 
13. Multivitamin     Tablet Sig: One (1) Tablet ___ 
(___).  
14. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 

___.  
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule ___ BID 
(2 times a day).  
16. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) ___ as needed for 
constipation.  
17. Senna 8.6 mg Tablet Sig: One (1) Tablet ___ BID (2 times a 
day) as needed for constipation.  
18. Polyethylene Glycol 3350 100 % Powder Sig: One (1) powder ___ 

___ as needed for constipation.  
19. Acetaminophen 325 mg Tablet Sig: One (1) Tablet ___ Q6H 
(every 6 hours) as needed for pain or fever. 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule ___ BID (2 
times a day).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet ___ BID (2 times a 
day) as needed for constipation.  
3. Digoxin 125 mcg Tablet Sig: One (1) Tablet ___ once a day.  
4. Atenolol 50 mg Tablet Sig: One (1) Tablet ___ twice a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Decreased level of consciousness
Multiple embolic strokes
Pulmonary edema from diastolic heart failure. 
Atrial fibrillation
Entrococcus urinrary tract infection 
 
Discharge Condition:
hospice care. poor short term and long term prognosis
 
Discharge Instructions:
You had multiple embolic strokes with atrial fibrillation. 
Family decided for comfort measures because of severe decreased 
level of  consciousness for several days. You were transferred 
to a hospice care based on their request. 
 
Followup Instructions:
___